US05654428
(±)-N-[[3-[3-fluoro-4-(6-quinolyl)phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide
(±)-N-[[3-[3-fluoro-4-(trimethylstannyl)phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide (PREPARATION 19, 0.367 g, 0.88 mmol), 6-bromoquinoline (0.239 g, 1.15 mmol) and bis(triphenyl-phosphine)palladium(II) chloride (0.062 g, 0.088 mmol) are combined with DMF (10 ml). The reaction mixture is thoroughly purged with nitrogen and then heated to 80° under nitrogen. After 2 hr, little progress is noted by TLC and so the reaction mixture is heated to 95° for a further 2 hr. At this point, TLC revealed the reaction is complete. The mixture is cooled to 20°-25° and concentrated under reduced pressure to give a crude material which is purified by chromatography over silica gel (10 g of silica gel; eluted with methanol/chloroform, 1→4%) to give the racemic title compound, mp 216°-219° (dec); IR (internal reflectance) 3411, 3281, 1743, 1657, 1630, 1566, 1521, 1499, 1416, 1226, 1194 cm-1 ; NMR (CDCl3, 300 MHz) 8.95, 8.26-8.20, 8.00, 7.92, 7.61, 7.57, 7.47, 7.35, 6.08, 4.84, 4.13, 3.86, 3.80-3.62, 2.05 8; MS (m/z) 379 (100.0, M+), 335, 307, 276, 264, 251.

reactant | (±)-N-[[3-[3-fluoro-4-(trimethylstannyl)phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide | 0.88 mmol, 0.367 g | FC=1C=C(C=CC1[Sn](C)(C)C)N1C(OC(C1)CNC(C)=O)=O
reactant | 6-bromoquinoline | 1.15 mmol, 0.239 g | BrC=1C=C2C=CC=NC2=CC1 | C9H6BrN
catalyst | bis(triphenyl-phosphine)palladium(II) chloride | 0.088 mmol, 0.062 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | (±)-N-[[3-[3-fluoro-4-(6-quinolyl)phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide | FC=1C=C(C=CC1C=1C=C2C=CC=NC2=CC1)N1C(OC(C1)CNC(C)=O)=O | C21H18FN3O3
